US05374697
Preparation of cyclohexyldiphenylsulfonium hexafluoroantimonate
1 mol of diphenyl sulfide is dissolved in an excess of cyclohexene and and to the solution is added 1 mol of HBF4 (54% etherate) and the mixture is stirred at room temperature. After c. 15 minutes a second phase forms. The product is isolated by addition of ether and dissolved in acetone. Afterwards, sodium hexafluoroantimonate is added to the solution and the resulting cyclohexyldiphenylsulfonium hexafluoroantimonate is precipitated by addition of water. The compound has a melting point of 129° C. and the analytical data obtained are as follows:

reactant | diphenyl sulfide | 1 mol | C1(=CC=CC=C1)SC1=CC=CC=C1 | C12H10S
reactant | cyclohexene | C1=CCCCC1 | C6H10
reactant | HBF4 | 1 mol | [H+].[B-](F)(F)(F)F
reactant | sodium hexafluoroantimonate | F[Sb-](F)(F)(F)(F)F.[Na+]
solvent | acetone | CC(=O)C | C3H6O
solvent | ether | CCOCC | C4H10O
product | cyclohexyldiphenylsulfonium hexafluoroantimonate | F[Sb-](F)(F)(F)(F)F.C1(CCCCC1)[S+](C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C18H21S.6FH.Sb/c1-4-10-16(11-5-1)19(17-12-6-2-7-13-17)18-14-8-3-9-15-18;;;;;;;/h1-2,4-7,10-13,18H,3,8-9,14-15H2;6*1H;/q+1;;;;;;;+5/p-6
